US06900243B2
a) Methyl (2S)-4-amino-2-hydroxy-butanoate hydrochloride
(S)-(−)-4-Amino-2-hydroxybutyric acid (5.432 g, 45.6 mmol) was dissolved in methanol (250 ml) and chlorotrimethylsilane (4.86 g, 137 mmol) added. The reaction was gently refluxed for 20 h. The reaction was cooled and the solvent removed in vacuo to afford the title compound as a colourless oil (6.07 g, 100%).

reactant | (S)-(−)-4-Amino-2-hydroxybutyric acid | 45.6 mmol, 5.432 g | NCC[C@@H](C(=O)O)O | C4H9NO3
reactant | chlorotrimethylsilane | 137 mmol, 4.86 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | methanol | 250 ml | CO | CH4O
product | Methyl (2S)-4-amino-2-hydroxy-butanoate hydrochloride | 6.07 g, 100% | Cl.NCC[C@@H](C(=O)OC)O | InChI=1S/C5H11NO3.ClH/c1-9-5(8)4(7)2-3-6;/h4,7H,2-3,6H2,1H3;1H/t4-;/m0./s1
